US05360813
2-(2,4-Difluorophenyl)-3-(4-trifluoromethylbenzenesulfonamido)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
Following the procedure described in the preceeding examples but using 3-amino-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol and 4-trifluoromethylbenzenesulfonylchloride, the title compound was obtained in a similar yield:

reactant | 3-amino-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | NCC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F | C11H12F2N4O
reactant | 4-trifluoromethylbenzenesulfonylchloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | 2-(2,4-Difluorophenyl)-3-(4-trifluoromethylbenzenesulfonamido)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(CNS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)O | C18H15F5N4O3S
